US07781590B2
3.1. 1,1-dimethylethyl 4-[({[2-(ethyloxy)-2-oxoethyl]oxy}carbonyl)amino]piperidine-1-carboxylate
A suspension of 5.09 g (25.42 mmol) of 1,1-dimethylethyl 4-aminopiperidine-1-carboxylate and 13.45 g (59.99 mmol) of ethyl [(phenyloxycarbonyl)oxy]acetate (J. Med. Chem., 1999, 42, 277-90) in 300 ml of toluene is heated at reflux for 30 hours.

reactant | 1,1-dimethylethyl 4-aminopiperidine-1-carboxylate | 25.42 mmol, 5.09 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | ethyl [(phenyloxycarbonyl)oxy]acetate | 59.99 mmol, 13.45 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethylethyl 4-[({[2-(ethyloxy)-2-oxoethyl]oxy}carbonyl)amino]piperidine-1-carboxylate | C(C)OC(COC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H26N2O6
